US07485658B2
A solution of 3-amino-4-(3-fluorophenylamino)benzoic acid (4.96 g, 20.1 mmol) in formic acid (40 mL) was charged with trimethylorthoformate (2.4 mL, 22.0 mmol) and heated at reflux for 3 h after which time the mixture was allowed to cool to rt and stir for 12 h. The reaction mixture was then poured into 150 mL of H2O and stirred for 20 min yielding a precipitate which was isolated by filtration to give 1-(3-fluorophenyl)-1H-benzimidazole-5-carboxylic acid as an off-white solid: 1H NMR (400 MHz, DMSO-d6) δ 12.88 (s, 1H), 8.73 (s, 1H), 8.32 (s, 1H), 7.95 (d, J=8.5 Hz, 1H), 7.75-7.66 (m, 3H), 7.59 (d, J=8.0 Hz, 2H), 7.38 (t, J=8.8 Hz, 1H); MS (ES+): m/z 257 [MH+].

reactant | 3-amino-4-(3-fluorophenylamino)benzoic acid | 20.1 mmol, 4.96 g | NC=1C=C(C(=O)O)C=CC1NC1=CC(=CC=C1)F | C13H11FN2O2
reactant | trimethylorthoformate | 22.0 mmol, 2.4 mL | COC(OC)OC | C4H10O3
reactant | H2O | 150 mL | O | H2O
solvent | formic acid | 40 mL | C(=O)O | CH2O2
product | 1-(3-fluorophenyl)-1H-benzimidazole-5-carboxylic acid | FC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(=O)O | C14H9FN2O2
